* SURROUND based on Fostex FF165WK and SEAS 27TFFC

.include circuits/driver.cir
.include circuits/closed_cab.cir

* amp *
Eg 1 0 2.83

** midbass **

* bsc *
Lbsc 1 2 .8m .22
Rbsc 1 2 5.6

* low pass *
Llp  2 3 .5m .21
Clp  3 0 12u

* imp comp *
Cnw  3 4 1.2u
Rnw  4 0 6.8

* driver *
Xff165wk 3 0 7 5 driver param: { .056m TO Le 6.5 TO Re 7.227 TO Bl \
			         0.7123 TO Rms 1.068m TO Cms 9.5m TO Mms \
			         132cm² TO Sd }

ZrW1  7 aGND 132cm² ai
ZrWr  5 8 132cm² ai
XBox  8 aGND closed_cab param: { 9L TO Vb 7 TO Qb 50 TO Ql \
                                 .056m TO Le 6.5 TO Re 7.227 TO Bl \
				 0.7123 TO Rms 1.068m TO Cms 9.5m TO Mms \
				 132cm² TO Sd }

** tweeter **

Ratt 1 10 5.6

Chp 10 11 3.3u
Lhp 11 0 .5m .21

*Cnt 11 12 2.2u
*Rnt 12 0 4.7

X27tffc 11 0 15 13 driver param: { .05m TO Le 4.8 TO Re 3.5 TO Bl \
                                   2 TO Rms .23m TO Cms .25m TO Mms \
	                           7.6cm² TO Sd }
ZrT1  15 16 7.6cm² ai
ZrT2  16 13 7.6cm² ai


* set logscale x
* set mxtics
* set mytics
* set style line 12 lc rgb '#ddccdd' lt 1 lw 1.5
* set style line 13 lc rgb '#ddccdd' lt 1 lw 0.5
* set grid xtics mxtics ytics mytics back ls 12, ls 13
* plot [16:40000] [40:100] 'plop.txt' using 1:2 title 'sum' with lines, 'plop.txt' using 1:3 title 'woofer' with lines, 'plop.txt' using 1:4 title 'tweeter' with lines

!general properties
. 132cm² TO woofer_Sd  IZrW1     TO woofer_volume_velocity
. 7.6cm² TO tweeter_Sd IZrT1 NEG TO tweeter_volume_velocity
. 0.25 TO distance_between_drivers
. 1 TO distance

!! frequency response /1m
*.include circuits/frequency_response_2way.fth

!! horizontal directivity
.include circuits/horizontal_directivity_2way.fth

!! vertical directivity
*. -5° TO vertical_angle
*.include circuits/vertical_directivity_2way.fth

! cone disp in mm
*.include circuits/cone_displacement_2way.fth

!phase
*.include circuits/phase_2way.fth

! phase delay in ms
*.include circuits/phase_delay_2way.fth

! ** group delay **
*. >>> F IZrT1 IZrW1 <<<     TO _woofer_volume_velocity
*.                       NEG TO _tweeter_volume_velocity
*.                           TO _F
*.include circuits/group_delay_2way.fth

! power dissipation in resistors
*. F .
*. IRbsc v1 v2 - * REAL ABS .
*. IRnw v4 v0 - *  REAL ABS .
*. IRatt v1 v10 - * REAL ABS .

!! power dissipation in driver's R
*. F .
*! active power
*. IEg v1 v0 - * REAL ABS .
*! reactive power
**. IEg v1 v0 - * IMAG ABS .
*! power dissipated in midbass
*. IRe:Xff165wk v0:Xff165wk v1:Xff165wk - * REAL ABS .
*! power dissipated in tweeter
*. IRe:X27tffc v0:X27tffc v1:X27tffc - * REAL ABS .
*! power dissipated in the midbass suspension
**. IRrms:Xff165wk v2:Xff165wk v3:Xff165wk - * REAL ABS .
*! power dissipated in the tweeter suspension
**. IRrms:X27tffc v2:X27tffc v3:X27tffc - * REAL ABS .

! total impedance
*. F .
*. v1 v0 - IEg / DUP ABS . ARG DEG .
